.subckt low_latch D Q clk 
    * Pmos with D input connected to gate
    *Drain Gate Source
    M1 C D vdd vdd CMOSP W={2*width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
    + AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    * Pmos with clock input connected to gate
    M2 Q clk C vdd CMOSP W={2*width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
    + AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    * Nmos with D input connected to gate
    M3 Q D gnd gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
    + AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    * Note: This is just the one component of the Low Level Latch, same component will repeat twice to make the complete Low Level Latch
.ends latch

.subckt high_latch D Q clk
    * Pmos with D input connected to gate
    M1 Q D vdd vdd CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
    + AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    * Nmos with clock input connected to gate
    M2 Q clk C gnd CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
    + AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    * Nmos with D input connected to gate
    M3 C D gnd gnd CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
    + AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    * Note: This is just the one component of the High Level Latch, same component will repeat twice to make the complete High Level Latch
.ends latch

.subckt Dflip Q D clk
    .param width_N= {10*LAMBDA}
    .param width_P= {2*width_N}
    * Complete Low Level Latch
    x1 D B clk vdd gnd low_latch
    x2 B com clk vdd gnd low_latch

    * Complete High Level Latch
    x3 temp A clk vdd gnd high_latch
    x4 A nt clk vdd gnd high_latch

    * Repeater at the output
    * x5 Qbar nt clk vdd gnd inv
    * x6 Q Qbar clk vdd gnd inv

    * one at mid and one at output
    x5 temp com clk vdd gnd inv
    x6 Q nt clk vdd gnd inv
    * just replace temp with com to convert into inverters at output
.ends